US04703053
A solution of 3.86 g (0.024 mole) of 3-amino-2-benzofurancarbonitrile in 50 ml of pyridine is cooled in ice and treated over 15 minutes with 2.0 ml (2.21 g; 0.028 mole) of acetyl chloride. The mixture is stirred in ice an additional two hours and added to 250 g of ice/water. The precipitated crude product is filtered, washed with water, and recrystallized from aqueous methanol to yield 2.8 g (57% yield) of 3-(acetylamino)-2-benzofurancarbonitrile. A sample recrystallized a second time as above is analytically pure, mp 187°-189° C.

reactant | 3-amino-2-benzofurancarbonitrile | 0.024 mole, 3.86 g | NC1=C(OC2=C1C=CC=C2)C#N | C9H6N2O
reactant | acetyl chloride | 0.028 mole, 2.0 ml, 2.21 g | C(C)(=O)Cl | C2H3ClO
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
product | 3-(acetylamino)-2-benzofurancarbonitrile | 2.8 g, 57% yield | C(C)(=O)NC1=C(OC2=C1C=CC=C2)C#N | C11H8N2O2
